US08008295B2
3-({[2-(Aminosulfonyl)ethyl]amino}sulfonyl)-5-bromo-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with 2-aminoethanesulfonamide hydrochloride, the title compound was obtained as a white solid. HRMS (ES) exact mass calculated for C11H13BrN4O5S2Na (M+Na+): 446.9403. Found 446.9404.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | 2-aminoethanesulfonamide hydrochloride | Cl.NCCS(=O)(=O)N
product | 3-({[2-(Aminosulfonyl)ethyl]amino}sulfonyl)-5-bromo-1H-indole-2-carboxamide | NS(=O)(=O)CCNS(=O)(=O)C1=C(NC2=CC=C(C=C12)Br)C(=O)N | C11H13BrN4O5S2
